US05556861
8-(3-Amino-3-methyl-1-azetidinyl)-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions described in Example 16, but starting with 1.58 g of 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 2.22 g of 3-amino-3-methylazetidine dimethanesulphonate. 1.7 g of 8-(3-amino-3-methyl-1-azetidinyl)-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 298° C.

reactant | 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.58 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)O | C16H10F2N2O3
reactant | 3-amino-3-methylazetidine dimethanesulphonate | 2.22 g | CS(=O)(=O)O.CS(=O)(=O)O.NC1(CNC1)C
product | 8-(3-amino-3-methyl-1-azetidinyl)-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.7 g | NC1(CN(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F)C | C20H19FN4O3
